US07790770B2
To a solution of 1-(4-fluoro-3-methoxyphenyl)-2-phenylethanone (13 g, 53 mmol) dissolved in THF (266 mL) was added (R)-2-methylpropane-2-sulfinamide (7.8 g, 64 mmol) at rt, followed by Ti(OEt)4 (17 mL, 80 mmol). The reaction mixture was heated to reflux for 48 h, then allowed to cool to rt. The reaction mixture was concentrated under reduced pressure and the residue was diluted with Et2O. H2O was added and the solid was filtered and washed with Et2O. The filtrate was washed with H2O, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, eluting with 0-100% EtOAc/hexane) to yield (R,E)-N-(1-(4-fluoro-3-methoxyphenyl)-2-phenylethylidene)-2-methylpropane-2-sulfinamide (12 g, 67% yield). LCMS: RT=3.655 min [M+H] 348.2 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% NH4OAc; 4 mL/min, monitoring at 220 nm); 1H NMR (500 MHz, CDCl3) δ ppm 7.60-7.53 (m, 1H), 7.43-7.36 (m, 1H), 7.29-7.15 (m, 5H), 7.03 (dd, J=11, 8 Hz, 1H), 4.75 (d, J=15 Hz, 1H), 4.54 (d, J=15 Hz, 1H), 3.84 (s, 3H), 1.34 (s, 9H).

reactant | 1-(4-fluoro-3-methoxyphenyl)-2-phenylethanone | 53 mmol, 13 g | FC1=C(C=C(C=C1)C(CC1=CC=CC=C1)=O)OC | C15H13FO2
reactant | (R)-2-methylpropane-2-sulfinamide | 64 mmol, 7.8 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 266 mL | C1CCOC1 | C4H8O
product | (R,E)-N-(1-(4-fluoro-3-methoxyphenyl)-2-phenylethylidene)-2-methylpropane-2-sulfinamide | 12 g, 67% yield | FC1=C(C=C(C=C1)\C(\CC1=CC=CC=C1)=N\[S@](=O)C(C)(C)C)OC | C19H22FNO2S
